US05576321
Preparation of (2S)-(+)-3-[4-(6-chloro-5-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 193 from 6-chloro-5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.80 g, 3.0 mmol) and (S)-(+)-4-(oxiranylmethoxy)-1H-indole (0.60 g, 3.2 mmol). The product was isolated as a yellow foam. Yield 260 mg (19%). mp 115°-120° C. FDMS m/e=452 (M+ of free base). α[D]589 =+6.62 (c=1.03, dimethylsulfoxide).

reactant | 6-chloro-5-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.0 mmol, 0.80 g | ClC1=C(C=C2C(=CNC2=C1)C=1CCNCC1)OC | C14H15ClN2O
reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 3.2 mmol, 0.60 g | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-[4-(6-chloro-5-methoxy-3-indolyl)-1,2,3,6-tetrahydropyridin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC1=C(C=C2C(=CNC2=C1)C=1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O)OC | C25H26ClN3O3
